US07605272B2
A solution of 4-hydroxy-3-methoxy-2-nitrobenzaldehyde (4.4 g, 22 mmol) in DMF (30 mL) was added with potassium carbonate (6.2 g, 24 mmol) and 2-(diethylamino)ethylbromide hydrobromide (6.2 g, 45 mmol), followed by stirring at 60° C. for 4 hours. Further, the reaction mixture was concentrated, added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated to obtain crude product. The obtained product was dissolved in ethyl acetate and the solution was added with 4 mol/L hydrogen chloride-ethyl acetate solution. The obtained white crystal was collected by filtration and dried to obtain 4-(diethylamino) ethoxy-3-methoxy-2-nitrobenzaldehyde hydrochloride (2.2 g, 29%).

reactant | 4-hydroxy-3-methoxy-2-nitrobenzaldehyde | 22 mmol, 4.4 g | OC1=C(C(=C(C=O)C=C1)[N+](=O)[O-])OC | C8H7NO5
reactant | potassium carbonate | 24 mmol, 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(diethylamino)ethylbromide hydrobromide | 45 mmol, 6.2 g | Br.C(C)N(CCBr)CC
reactant | hydrogen chloride-ethyl acetate | 4 mol/L | C(C)(=O)OCC.Cl
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(diethylamino) ethoxy-3-methoxy-2-nitrobenzaldehyde hydrochloride | 2.2 g, 29% | Cl.C(C)N(CC)CCOC1=C(C(=C(C=O)C=C1)[N+](=O)[O-])OC | InChI=1S/C14H20N2O5.ClH/c1-4-15(5-2)8-9-21-12-7-6-11(10-17)13(16(18)19)14(12)20-3;/h6-7,10H,4-5,8-9H2,1-3H3;1H
